US09034900B2
Step 3: 6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine
A mixture of 5-bromo-6-(2,4-difluorophenoxy)pyridin-3-amine (400 mg, 1.33 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (675 mg, 2.7 mmol), KOAc (325 mg, 3.3 mmol), Pd2(dba)3 (36 mg, 3%), and 1,3,5,7-tetramethyl-6-phenyl-2,4,8-trioxa-6-phosphaadamantane (38 mg, 10%) was suspended in dioxane (9 mL). The stirred reaction mixture was capped and purged with nitrogen for 5 to 7 min using an oil bubbler as an outlet. After the nitrogen inlet and outlet were removed, the capped vial was stirred at 80° C. for 3 h. After cooling to rt, the reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (50 mL). The filtrate was treated with water and extracted with EtOAc; the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The residue was purified by silica gel column chromatography using a gradient (20-70%) of EtOAc in hexanes to afford the title compound (163 mg, 35%). LCMS (M+H)+=349.

reactant | 5-bromo-6-(2,4-difluorophenoxy)pyridin-3-amine | 1.33 mmol, 400 mg | BrC=1C=C(C=NC1OC1=C(C=C(C=C1)F)F)N | C11H7BrF2N2O
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 2.7 mmol, 675 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.3 mmol, 325 mg | CC(=O)[O-].[K+]
reactant | 1,3,5,7-tetramethyl-6-phenyl-2,4,8-trioxa-6-phosphaadamantane | 38 mg | CC12OC3(OC(P(C(O1)(C3)C)C3=CC=CC=C3)(C2)C)C | C16H21O3P
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine | 163 mg, 35% | FC1=C(OC2=C(C=C(C=N2)N)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C17H19BF2N2O3
